US04707550
1-Acetyl-3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione
A solution of 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione (1.0 g, 2.6 mmol) in methylene chloride (50 ml) was cooled by an external ice bath and triethylamine (0.393 g, 3.88 mmol) and acetyl chloride (0.305 g, 3.88 mmol) were added. After stirring for 1 hour, the mixture was warmed to room temperature and quenched with water (10 ml). The separated organic layer was washed with water and saturated brine and dried over magnesium sulfate. The solution was concentrated in vacuo, treated with toluene (10 ml) and reconcentrated to give the product (0.93 g, 83.5% yield) which was recrystallized from methylene chloride-hexanes to give the analytical sample as light brown crystals, mp 128°-129° C.

reactant | 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | 2.6 mmol, 1.0 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC=2C(C1=O)=CSC2)=O | C19H22N4O3S
reactant | triethylamine | 3.88 mmol, 0.393 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.88 mmol, 0.305 g | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | 0.93 g, 83.5% yield | C(C)(=O)N1C(N(C(C=2C1=CSC2)=O)CCN2CCN(CC2)C2=C(C=CC=C2)OC)=O | C21H24N4O4S
